US09428452B2
Preparation of 2-cyano-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (Example 38)
To a solution of 2-chloro-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (200 mg, 0.429 mmol) in N-methyl-2-pyrrolidone (NMP) (2 mL) was added copper(I) cyanide (77 mg, 0.858 mmol). The reaction vessel was sealed and heated by microwaves (Biotage Initiator) to 220° C. for 2 hours. After cooling the reaction LCMS analysis showed some evidence of the desired product. The reaction was reheated by microwaves to 220° C. for an additional 6 hours. The reaction was slowly and carefully quenched with dilute HCl (5 mL) and DCM (5 mL). The mixture was passed through a hydrophobic frit and the organic layer collected and concentrated in vacuo to give a brown oil. The crude was purified by mass directed autoprep (ammonium carbonate modifier). The appropriate fractions were evaporated in vacuo to give the required product, 56 mg. LCMS [LCMS2] Rt 1.47 min, m/z (ES+) 457 (M+H).

reactant | 2-chloro-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | 0.429 mmol, 200 mg | ClC1=C(C=CC(=C1)OCC1CCOCC1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C24H32ClNO4S
reactant | copper(I) cyanide | 0.858 mmol, 77 mg | [Cu]C#N
solvent | N-methyl-2-pyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 2-cyano-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | C(#N)C1=C(C=CC(=C1)OCC1CCOCC1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C25H32N2O4S
